US04351838
4-(2,2-dimethylindane-1-ylidene)piperidine
43 g 4-(2,2-dimethylindane-1-ylidene)-1-methyl-piperidine and 65 g ethyl chloroformate in 800 ml toluene are refluxed for 3 hours. After cooling, the solution is washed with 1 N hydrochloric acid and water, dried over magnesium sulfate and the toluene distilled off. The oily residue is then refluxed for 6 hours in 90 ml n-butanol and 9 g potassium hydroxide. The reaction mixture is cooled, filtered, diluted with ether and shaken out with water until neutral. The organic phase is then dried over magnesium sulfate and evaporated, to give the title compound as the hydrogenofumarate: m.p. 200°-202°.

reactant | 4-(2,2-dimethylindane-1-ylidene)-1-methyl-piperidine | 43 g | CC1(C(C2=CC=CC=C2C1)=C1CCN(CC1)C)C | C17H23N
reactant | ethyl chloroformate | 65 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 800 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(2,2-dimethylindane-1-ylidene)piperidine | CC1(C(C2=CC=CC=C2C1)=C1CCNCC1)C | C16H21N
